US06002008
4-[(3-Chlorophenyl)amino]-6-nitro-3-quinolinecarbonitrile
A mixture of 10.0 g (42.9 mmol)) 4-chloro-6-nitro-3-quinolinecarbonitrile, 260 ml ethanol, and 5.40 ml 3-chloroaniline was heated to reflux under N2. Removed heat at 4 hours, cooled to 25° C. and added saturated sodium bicarbonate until the pH was basic. Stripped solvents and azeotroped with ethanol. Slurried residue with hexane, collected solid, and air dried. Washed solids with water and dried in vacuo. Dissolved in boiling ethyl acetate, stirred with Darco, and filtered. Stripped solvent and dried residue in vacuo, giving 6.5 g of yellow solid: mass spectrum (electrospray m/e): M+H=325.0, 327.0.

reactant | 4-chloro-6-nitro-3-quinolinecarbonitrile | ClC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C10H4ClN3O2
reactant | 3-chloroaniline | 5.40 ml | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | ethanol | 260 ml | C(C)O | C2H6O
product | 4-[(3-Chlorophenyl)amino]-6-nitro-3-quinolinecarbonitrile | 6.5 g | ClC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C16H9ClN4O2
